US07544835B2
2-Ethoxy-3-{3-[2-({[3-(trifluoromethyl)anilino]carbonyl}-oxy)ethyl]phenyl}propanoic acid
Using ethyl 2-ethoxy-3-[3-(2-hydroxyethyl)phenyl]propanoate and α,α,α-trifluoro-m-tolylisocyanate, the title compound was obtained in the same manner as described in Example 160b).

reactant | ethyl 2-ethoxy-3-[3-(2-hydroxyethyl)phenyl]propanoate | C(C)OC(C(=O)OCC)CC1=CC(=CC=C1)CCO | C15H22O4
reactant | α,α,α-trifluoro-m-tolylisocyanate | FC(C1=CC(=CC=C1)N=C=O)(F)F | C8H4F3NO
product | 2-Ethoxy-3-{3-[2-({[3-(trifluoromethyl)anilino]carbonyl}-oxy)ethyl]phenyl}propanoic acid | C(C)OC(C(=O)O)CC1=CC(=CC=C1)CCOC(=O)NC1=CC(=CC=C1)C(F)(F)F | C21H22F3NO5
